simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 80n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.20 7.9n 0.20 8n 0.75 43.9n 0.75 44n 0.50 53.9n 0.50 54n 0.75 80n 0.75]

XDUT (clk rst vin out metric) power_on_reset_detector

tran tran stop=80n maxstep=0.5n
save clk rst vin out metric
